US08735322B2
A solution of tetrahydropyran-4-carboxaldehyde (16.0 g, 0.14 mol) in tetrahydrofuran (60 ml) is added dropwise over 1 hour to a 1 M solution of 3,5-dimethoxyphenylmagnesium chloride in tetrahydrofuran (140 ml), maintaining the reaction at or below reflux by external cooling. Once the addition is complete, and the exotherm has subsided, the reaction mixture is allowed to stir at room temperature overnight. A solution of dilute aqueous hydrochloric acid (300 ml) is added carefully and the reaction mixture is extracted with ethyl acetate. The organic extract is dried over anhydrous magnesium sulfate, filtered, and the filtrate evaporated in vacuo. Purification by column chromatography on silica gel gives (3,5-dimethoxyphenyl) (tetrahydropyran-4-yl)methanol as a cream solid.

reactant | tetrahydropyran-4-carboxaldehyde | 0.14 mol, 16.0 g | O1CCC(CC1)C=O | C6H10O2
reactant | 3,5-dimethoxyphenylmagnesium chloride | COC=1C=C(C=C(C1)OC)[Mg]Cl
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | (3,5-dimethoxyphenyl) (tetrahydropyran-4-yl)methanol | COC=1C=C(C=C(C1)OC)C(O)C1CCOCC1 | C14H20O4
